US07202312B2
(Preparation of 5-butylnorbornene/5-norbornene-2-carboxylic acid butyl ester/5-norbornene-2-carboxylic acid methyl ester tricopolymer solution)
5-Butylnorbornene (35.8 g), 5-norbornene-2-carboxylic acid butyl ester (31.1 g) and 5-norbornene-2-carboxylic acid methyl ester (60.9 g) were added to a reactor at room temperature. Toluene (95.8 g) was added to the reactor. Air inside the reactor was replaced by nitrogen and the reactor was heated to 90° C. Palladium diacetate (22.4 mg), dimethyl aniliniumtetrakis (pentafluorophenyl)borate (160.2 mg) and tricylcohexylphosphine (28 mg) dissolved in dichloromethyl were added to the reactor. Reaction was performed for 18 hours while stirring to obtain a tricopolymer solution comprising 30 mol % of 5-butylnorbornene, 20 mol % of 5-norbornene-2-carboxylic acid butyl ester and 50 mol % of 5-norbornene-2-carboxylic acid methyl ester monomers. 287 g of toluene was added to dilute the solution. The copolymer had a molecular weight (Mw) of 175,000. The proportion of Mw/Mn was 2.13.

reactant | 5-Butylnorbornene | 35.8 g | C(CCC)C1C2C=CC(C1)C2 | C11H18
reactant | 5-norbornene-2-carboxylic acid butyl ester | 31.1 g | C(CCC)OC(=O)C1C2C=CC(C1)C2 | C12H18O2
reactant | 5-norbornene-2-carboxylic acid methyl ester | 60.9 g | COC(=O)C1C2C=CC(C1)C2 | C9H12O2
reactant | dimethyl aniliniumtetrakis (pentafluorophenyl)borate | 160.2 mg | FC1=C(C(=C(C(=C1[B-](C1=C(C(=C(C(=C1F)F)F)F)F)(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.C[NH+](C1=CC=CC=C1)C
reactant | tricylcohexylphosphine | 28 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
catalyst | Palladium diacetate | 22.4 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
solvent | toluene | 287 g | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 95.8 g | C1(=CC=CC=C1)C | C7H8
product | 5-butylnorbornene 5-norbornene-2-carboxylic acid butyl ester 5-norbornene-2-carboxylic acid methyl ester | C(CCC)C1C2C=CC(C1)C2.C(CCC)OC(=O)C1C2C=CC(C1)C2.COC(=O)C1C2C=CC(C1)C2 | InChI=1S/C12H18O2.C11H18.C9H12O2/c1-2-3-6-14-12(13)11-8-9-4-5-10(11)7-9;1-2-3-4-10-7-9-5-6-11(10)8-9;1-11-9(10)8-5-6-2-3-7(8)4-6/h4-5,9-11H,2-3,6-8H2,1H3;5-6,9-11H,2-4,7-8H2,1H3;2-3,6-8H,4-5H2,1H3
